*
.SUBCKT BD132 1 2 3 
* housing parasitics
LBlead 2 22 2.2E-09 
LE 3 333 4.2E-09 
LC 1 11 7.39E-10 
LBbond 22 222 1.5E-09 
CBCG 222 11 3.3E-13 
CBEG 222 333 5E-14 
CCEG 11 333 6.5E-13 
Q1 11 222 333 QBD132 
*
.MODEL QBD132 PNP ( 
+ IS = 2.171E-13 
+ NF = 0.9918 
+ ISE = 2.423E-14 
+ NE = 1.274 
+ BF = 133 
+ IKF = 3.09 
+ VAF = 91 
+ NR = 0.9926 
+ ISC = 3.626E-13 
+ NC = 1.193 
+ BR = 18.54 
+ IKR = 0.35 
+ VAR = 23 
+ RB = 13 
+ IRB = 0.0005946 
+ RBM = 4.441E-10 
+ RE = 0.19 
+ RC = 0.04082 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3.968E-10 
+ VJE = 0.9472 
+ MJE = 0.4214 
+ TF = 1.354E-09 
+ XTF = 7 
+ VTF = 7 
+ ITF = 3.692 
+ PTF = 0 
+ CJC = 2.687E-10 
+ VJC = 0.1708 
+ MJC = 0.3977 
+ XCJC = 1 
+ TR = 4.6E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78) 
.ENDS
*
